* Z:\home\awhitcombe\VLSI\Project\ultra-efficient-adc\Layout\msb_registers_LDS.asc
XX1 MSB_CLK SYS_CLKb N001 N003 neg pos SYS_CLK RST_IRb toggleflipflop_low_lds_symbol
XX2 MSB_CLK N003 N002 NC_01 neg pos N001 RST_IRb toggleflipflop_low_lds_symbol
XX3 N001 W_CLK W_CLKb Bit1 NC_02 RST_ORb pos neg resetflipflop_low_lds
XX4 N002 W_CLK W_CLKb Bit0 NC_03 RST_ORb pos neg resetflipflop_low_lds

* block symbol definitions
.subckt toggleflipflop_low_lds_symbol T CB Q QB V- V+ C Rb
M1 N001 Q N005 V- nfet l=0.9u w=3u
M2 N005 T V- V- nfet l=0.9u w=3u
M3 N001 T V+ V+ pfet l=0.9u w=6u
M4 N001 Q V+ V+ pfet l=0.9u w=6u
M5 N003 T V- V- nfet l=0.9u w=3u
M6 N003 T V+ V+ pfet l=0.9u w=6u
M7 N004 QB N007 V- nfet l=0.9u w=3u
M8 N007 N003 V- V- nfet l=0.9u w=3u
M9 N004 N003 V+ V+ pfet l=0.9u w=6u
M10 N004 QB V+ V+ pfet l=0.9u w=6u
M11 N002 N004 N006 V- nfet l=0.9u w=3u
M12 N006 N001 V- V- nfet l=0.9u w=3u
M13 N002 N001 V+ V+ pfet l=0.9u w=6u
M14 N002 N004 V+ V+ pfet l=0.9u w=6u
XX1 N002 C CB Q QB Rb V+ V- resetflipflop_low_lds
.ends toggleflipflop_low_lds_symbol

.subckt resetflipflop_low_lds D CLK CLKb Q Qb RESETb pos neg
M1 N005 CLK N007 neg nfet l=0.9u w=3u
M4 N003 D pos pos pfet l=0.9u w=6u
M28 N001 RESETb pos pos pfet l=0.9u w=7.8u
M29 N001 RESETb pos pos pfet l=0.9u w=12.6u
M3 N005 CLKb N003 pos pfet l=0.9u w=6u
M6 N002 N005 pos pos pfet l=0.9u w=6u
M9 N001 CLK N004 pos pfet l=0.9u w=6u
M10 N004 N002 pos pos pfet l=0.9u w=6u
M11 N006 N001 pos pos pfet l=0.9u w=6u
M12 Q N001 pos pos pfet l=0.9u w=6u
M16 Qb N006 pos pos pfet l=0.9u w=6u
M17 N001 CLKb N009 pos pfet l=0.9u w=6u
M18 N009 N006 pos pos pfet l=0.9u w=6u
M22 N005 CLK N010 pos pfet l=0.9u w=6u
M24 N010 N002 pos pos pfet l=0.9u w=6u
M2 N007 D neg neg nfet l=0.9u w=3u
M5 N002 N005 neg neg nfet l=0.9u w=3u
M7 N001 CLKb N008 neg nfet l=0.9u w=3u
M8 N008 N002 neg neg nfet l=0.9u w=3u
M13 N006 N001 neg neg nfet l=0.9u w=3u
M14 Qb N006 neg neg nfet l=0.9u w=3u
M15 N001 CLK N011 neg nfet l=0.9u w=3u
M19 N011 N006 neg neg nfet l=0.9u w=3u
M20 N012 N002 neg neg nfet l=0.9u w=3u
M21 N005 CLKb N012 neg nfet l=0.9u w=3u
M25 N001 RESETb pos pos pfet l=0.9u w=7.8u
M26 N001 RESETb pos pos pfet l=0.9u w=7.8u
M27 N005 RESETb pos pos pfet l=0.9u w=7.8u
M30 N005 RESETb pos pos pfet l=0.9u w=12.6u
M31 N005 RESETb pos pos pfet l=0.9u w=7.8u
M32 N005 RESETb pos pos pfet l=0.9u w=7.8u
M23 Q N001 neg neg nfet l=0.9u w=3u
.ends resetflipflop_low_lds

* Bit1
* Bit0
.backanno
.end
